US06812237B2
To a solution of pyridine (0.78 mL, 9.7 mmol) in CH2Cl2 (50 mL) at −10° C. is added triflic anhydride (1.68 mL, 10.0 mmol) over 15 min. A solution of benzyl (R)-2-hydroxy-3-(3-methylphenyl)-propionate (1.5 g, 5.55 mmol) in CH2Cl2 (15 mL) is then added dropwise over 30 min., and the mixture is warmed to room temp. over 1 h. The solution is diluted with CH2Cl2 (100 mL), washed with water (2×100 mL) and brine (100 mL), dried (MgSO4), and evaporated to yield benzyl (R)-2-trifluoromethanesulfonyloxy-3-(3-methylphenyl)-propionate as a yellowish oil.

reactant | pyridine | 9.7 mmol, 0.78 mL | N1=CC=CC=C1 | C5H5N
reactant | triflic anhydride | 10.0 mmol, 1.68 mL | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | benzyl (R)-2-hydroxy-3-(3-methylphenyl)-propionate | 5.55 mmol, 1.5 g | O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)C | C17H18O3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | benzyl (R)-2-trifluoromethanesulfonyloxy-3-(3-methylphenyl)-propionate | FC(S(=O)(=O)O[C@@H](C(=O)OCC1=CC=CC=C1)CC1=CC(=CC=C1)C)(F)F | C18H17F3O5S
